US04474754
1.50 Grams of Boc-Leu-Gln-Arg(Tos)-Ser-Ser-OH was treated with 10 ml of trifluoroacetic acid at a room temperature to remove the tert-butoxycarbonyl group therefrom, dried ether was added to the reaction mixture to crystallize the desired product to obtain H-Leu-Gln-Arg(Tos)-Ser-Ser-OH.

reactant | Boc-Leu-Gln-Arg(Tos)-Ser-Ser-OH | N([C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O)C(=O)OC(C)(C)C | C35H57N9O13S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | H-Leu-Gln-Arg(Tos)-Ser-Ser-OH | N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CO)C(=O)O | C30H49N9O11S
